US07553842B2
Step A: Preparation of 3-(4-nitrophenoxy)-dihydrofuran-2-one:
To a solution of 4-nitrophenol (278 mg, 2.0 mmol) in DMF (6 mL) at room temperature under a nitrogen atmosphere was added powdered K2CO3 (552 mg, 2.0 mmol) followed by3-bromo-dihydrofuran-2-one (330 mg, 2.0 mmol). After stirring at room temperature under a nitrogen atmosphere for 16 hours, the mixture was diluted to 30 mL with EtOAc and washed with water (4×30 mL) and brine (30 mL). The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to provide the product (240 mg, 54%) as tan oil that later solidified.

reactant | 4-nitrophenol | 2.0 mmol, 278 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | K2CO3 | 2.0 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 3-(4-nitrophenoxy)-dihydrofuran-2-one | 240 mg, 54% | [N+](=O)([O-])C1=CC=C(OC2C(OCC2)=O)C=C1 | C10H9NO5
